US07723333B2
tert-Butyl [2-(3-bromophenyl)ethyl]carbamate
[2-(3-Bromophenyl)ethyl]amine (2.22 g, 11.09 mmol) was dissolved in dry THF (80 mL) and TEA (1.12 g, 11.09 mmol) was added. The mixture was cooled in an ice-bath. Di-tert-butyl dicarbonate (2.42 g, 11.09 mmol) was added. The reaction mixture was stirred for 1 h at 0° C. and at rt for 2 h. The solvent was evaporated affording the title compound (3.44 g, 103%). 1H NMR (500 MHz, CDCl3): δ 1.45 (s, 9H), 2.79 (t, 2H), 3.37 (q, 2H), 4.58 (bs, 1H), 7.12-7.15 (m, 1H), 7.17-7.20 (m, 1H), 7.35-7.38 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 28.63, 36.11, 41.82, 79.61, 122.83, 127.71, 129.78, 130.35, 132.12, 141.64, 156.05; Mass Spectrum: M-Na+ 323.

reactant | [2-(3-Bromophenyl)ethyl]amine | 11.09 mmol, 2.22 g | BrC=1C=C(C=CC1)CCN | C8H10BrN
reactant | Di-tert-butyl dicarbonate | 11.09 mmol, 2.42 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | tert-Butyl [2-(3-bromophenyl)ethyl]carbamate | 3.44 g, 103% | BrC=1C=C(C=CC1)CCNC(OC(C)(C)C)=O | C13H18BrNO2
